### PR TITLE
[Merged by Bors] - feat(Order/Cover): characterise covering in Pi types

### PR DESCRIPTION
**Pull request by b-mehta**
Characterise the covering relation in products of partial orders.
Generalise this characterisation to products of preorders.
Use the characterisation to significantly simplify the characterisation of atoms in products of partial orders.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Cover.lean [hunk 1]
```diff
@@ -567,6 +567,137 @@ theorem covBy_iff : x ⋖ y ↔ x.1 ⋖ y.1 ∧ x.2 = y.2 ∨ x.2 ⋖ y.2 ∧ x.
...
+lemma wcovBy_iff_exists_left_eq [Nonempty ι] [DecidableEq ι] :
+    a ⩿ b ↔ ∃ i x, x ⩿ b i ∧ a = Function.update b i x := by
+  rw [wcovBy_iff]
+  constructor
+  · rintro ⟨i, hi, h⟩
+    exact ⟨i, a i, hi, by simpa [Function.eq_update_iff, eq_comm] using h⟩
+  · rintro ⟨i, x, h, rfl⟩
+    exact ⟨i, by simpa +contextual⟩
+
+lemma covBy_iff_exists_left_eq [Nonempty ι] [DecidableEq ι] :
```
Comment (b-mehta) [inline Mathlib/Order/Cover.lean:688]:
```suggestion
lemma covBy_iff_exists_left_eq [DecidableEq ι] :
```

File: Mathlib/Order/Cover.lean [hunk 2]
```diff
@@ -567,6 +567,137 @@ theorem covBy_iff : x ⋖ y ↔ x.1 ⋖ y.1 ∧ x.2 = y.2 ∨ x.2 ⋖ y.2 ∧ x.
...
+variable {ι : Type*} {α : ι → Type*} [∀ i, Preorder (α i)] {a b : (i : ι) → α i}
+
+lemma _root_.WCovBy.eval (h : a ⩿ b) (i : ι) : a i ⩿ b i := by
+  classical
+  refine ⟨h.1 i, fun ci h₁ h₂ ↦ ?_⟩
+  have hcb : Function.update a i ci ≤ b := by simpa [update_le_iff, h₂.le] using fun j hj ↦ h.1 j
+  refine h.2 (by simpa) (lt_of_le_not_le hcb ?_)
+  simp [le_update_iff, h₂.not_le]
+
+lemma exists_forall_antisymmRel_of_covBy (h : a ⋖ b) :
```
Comment (urkud) [inline Mathlib/Order/Cover.lean:583]: Optional:
```suggestion
lemma CovBy.exists_forall_antisymmRel (h : a ⋖ b) :
```

File: Mathlib/Order/Cover.lean [hunk 3]
```diff
@@ -567,6 +567,137 @@ theorem covBy_iff : x ⋖ y ↔ x.1 ⋖ y.1 ∧ x.2 = y.2 ∨ x.2 ⋖ y.2 ∧ x.
...
+  obtain h | h := h
+  · exact exists_forall_antisymmRel_of_covBy h
+  · inhabit ι
+    exact ⟨default, fun j hj ↦ ⟨h.left j, h.right j⟩⟩
+
+/--
+A characterisation of the `WCovBy` relation in products of preorders. See `Pi.wcovBy_iff` for the
+(more common) version in products of partial orders.
+-/
+lemma wcovBy_iff' [Nonempty ι] :
```
Comment (urkud) [inline Mathlib/Order/Cover.lean:606]: Optional, not sure if it's better:
```suggestion
lemma wcovBy_iff_antisymmRel [Nonempty ι] :
```

File: Mathlib/Order/Cover.lean [hunk 4]
```diff
@@ -567,6 +567,137 @@ theorem covBy_iff : x ⋖ y ↔ x.1 ⋖ y.1 ∧ x.2 = y.2 ∨ x.2 ⋖ y.2 ∧ x.
...
+lemma covBy_iff_exists_right_eq [DecidableEq ι] :
+    a ⋖ b ↔ ∃ i x, a i ⋖ x ∧ b = Function.update a i x := by
+  rw [covBy_iff]
+  constructor
+  · rintro ⟨i, hi, h⟩
+    exact ⟨i, b i, hi, by simpa [Function.eq_update_iff, eq_comm] using h⟩
+  · rintro ⟨i, x, h, rfl⟩
+    exact ⟨i, by simpa +contextual⟩
+
+lemma wcovBy_iff_exists_left_eq [Nonempty ι] [DecidableEq ι] :
```
Comment (urkud) [inline Mathlib/Order/Cover.lean:679]: Can you get `left` versions from `OrderDual`? Or do you consider it to be defeq abuse?

**Comment by urkud** [comment]
I left some optional naming suggestions (move more theorems to `WCovBy`/`CovBy` namespaces). I'm not sure if they're actually better than the names you chose, so feel free to reject them. Thanks!
bors d+

File: Mathlib/Order/Cover.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Order/Cover.lean:583]: I agree dot-notation here would be nice, but this loses the `Pi` mention of the original; which I think needs to be present here, and I don't see how to fit it nicely in the new name. Putting `exists_forall_antisymmRel` in the `CovBy` namespace without mentioning `pi` feels confusing to me

File: Mathlib/Order/Cover.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Order/Cover.lean:679]: I think it is defeq abuse, but more importantly it seems quite a bit more painful to do: there's juggling between the order dual on each of the component types and on the pi type, and commuting the toDual/ofDual with Function.update; overall I don't think it's worth it.

**Comment by b-mehta** [comment]
Thanks for the review! I kept one batch of renames.

**Comment by b-mehta** [comment]
bors merge
